US04235930
At 20° C., 130 ml. of an approximately 1.3-molar butyllithium solution in hexane is added dropwise to a solution of 27.1 g. of diisopropylamine in 130 ml. of THF. At -20° to 0°, 6.6 ml. of propionic acid and 18 ml. of hexamethylphosphoric triamide are added dropwise to this mixture, and the latter is stirred for 35 minutes at room temperature, and then at 0° 11.6 g. of 1-bromo-2-butyne is added dropwise thereto. The mixture is then stirred for 2 hours at room temperature. Then, the reaction mixture is stirred into 300 ml. of 10% hydrochloric acid, extracted three times with a mixture of pentane/ether (1+1), the organic extract is washed neutral with water, dried with magnesium sulfate, and the solvent is removed by distillation. After distilling the remainder in a bulb tube at 12 torr and 114°, 7.8 g. of 2-methyl-4-hexynoic acid is obtained as a colorless liquid.

reactant | butyllithium | approximately 1.3-molar | C(CCC)[Li]
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | 1-bromo-2-butyne | BrCC#CC | C4H5Br
solvent | hexane | CCCCCC | C6H14
solvent | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | THF | C1CCOC1 | C4H8O
product | 2-methyl-4-hexynoic acid | CC(C(=O)O)CC#CC | C7H10O2
